US08735384B2
A solution of 2-iodopyrazine (0.48 mL, 4.85 mmol) in dry THF (3 mL) was brought to 0° C. followed by the slowly addition of butylmagnesium chloride, 2.0M solution in THF (2.4 mL, 4.85 mmol). The resulting dark solution was stirred at 0° C. for 30 min then a solution of 2-bromo-3-methylbenzaldehyde (1.06 g, 5.34 mmol) in THF (2 mL) was slowly added and kept at 0° C. for 2 h. The mixture was quenched with saturated NH4Cl and extracted with DCM. The combined organics were washed with brine, dried over Na2SO4, filtered, concentrated and purified by silica gel column chromatography using gradient 1:1 hexanes/EtOAc to afford a yellow-orange oil as (2-bromo-3-methylphenyl)(pyrazin-2-yl)methanol.

reactant | 2-iodopyrazine | 4.85 mmol, 0.48 mL | IC1=NC=CN=C1 | C4H3IN2
reactant | butylmagnesium chloride | C(CCC)[Mg]Cl
reactant | 2-bromo-3-methylbenzaldehyde | 5.34 mmol, 1.06 g | BrC1=C(C=O)C=CC=C1C | C8H7BrO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 4.85 mmol, 2.4 mL | C1CCOC1 | C4H8O
product | (2-bromo-3-methylphenyl)(pyrazin-2-yl)methanol | BrC1=C(C=CC=C1C)C(O)C1=NC=CN=C1 | C12H11BrN2O
